US08937078B2
Step C: Preparation of 1-{[4-(2,6-dimethyl-phenoxy)-3-methyl-phenylamino]-ethoxycarbonylimino-methyl}-1H-pyrazole-4-carboxylic acid ethyl ester.
A solution of 4-(2,6-dimethyl-phenoxy)-3-methyl-aniline (0.80 g, 3.5 mmol), ethyl isothiocyanatoformate (0.40 mL, 3.5 mmol) and DCM (30 mL) was stirred at room temperature for 1 h. Ethyl pyrazole-4-carboxylate (0.54 g, 3.9 mmol) and DIC (0.54 mL, 3.5 mmol) were added, and the solution was stirred at room temperature for 16 h. The mixture was concentrated and purified by FCC (EtOAc/hexanes 0:100 to 50:50) to provide the titled compound (0.97 g, 60%). MS (ESI): mass calcd. for C25H28N4O5, 464.5; m/z found, 465.1 [M+H]+.

reactant | 4-(2,6-dimethyl-phenoxy)-3-methyl-aniline | 3.5 mmol, 0.80 g | CC1=C(OC2=C(C=C(N)C=C2)C)C(=CC=C1)C | C15H17NO
reactant | ethyl isothiocyanatoformate | 3.5 mmol, 0.40 mL | N(=C=S)C(=O)OCC | C4H5NO2S
reactant | Ethyl pyrazole-4-carboxylate | 3.9 mmol, 0.54 g | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | DIC | 3.5 mmol, 0.54 mL | CC(N=C=NC(C)C)C | C7H14N2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-{[4-(2,6-dimethyl-phenoxy)-3-methyl-phenylamino]-ethoxycarbonylimino-methyl}-1H-pyrazole-4-carboxylic acid ethyl ester | 0.97 g, 60% | C(C)OC(=O)C=1C=NN(C1)C(=NC(=O)OCC)NC1=CC(=C(C=C1)OC1=C(C=CC=C1C)C)C | C25H28N4O5
